US08034812B2
Production of 3-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)phenyl]benzamide
Using N-{6-[(3-aminophenyl)sulfanyl]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide (140 mg, 0.430 mmol), 3-(1-cyano-1-methylethyl)benzoic acid (97 mg, 0.516 mmol), oxalyl chloride (75 μL, 0.860 mmol), N,N-dimethylformamide (1 drop), tetrahydrofuran (3 mL) and N,N-dimethylacetamide (3 mL) as starting materials and in the same manner as in Example 412, the title compound (108 mg, 51%) was obtained as a white powder.

reactant | N-{6-[(3-aminophenyl)sulfanyl]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide | 0.430 mmol, 140 mg | NC=1C=C(C=CC1)SC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C16H15N5OS
reactant | 3-(1-cyano-1-methylethyl)benzoic acid | 0.516 mmol, 97 mg | C(#N)C(C)(C)C=1C=C(C(=O)O)C=CC1 | C11H11NO2
reactant | oxalyl chloride | 0.860 mmol, 75 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
product | 3-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)phenyl]benzamide | 108 mg, 51% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)SC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C27H24N6O2S
